US04943582
trans-4-Amino-3,4-dihydro-2,2,6-trimethyl-2H-1-benzopyran-3-ol (D7)
A solution of 3,4-epoxy-3,4-dihydro-2,2,6-trimethyl-2H-1-benzopyran (7 g, see J. Med. Chem. 26, 1582, 1983) in concentrated ammonia solution (90 ml) and ethanol (160 ml) was stirred at room temperature for 5 days. Evaporation of solvent gave the title compound (7 g) as a crude solid which was used directly, without purification.

reactant | 3,4-epoxy-3,4-dihydro-2,2,6-trimethyl-2H-1-benzopyran | 7 g | O1C2C(OC3=C(C21)C=C(C=C3)C)(C)C | C12H14O2
reactant | ammonia | 90 ml | N | H3N
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | trans-4-Amino-3,4-dihydro-2,2,6-trimethyl-2H-1-benzopyran-3-ol | 7 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C)(C)C)O | C12H17NO2
